US05688795
substituting diisopropylamine and 4-chloronicotinic acid gave N,N-diisopropyl-4-chloronicotinamide; and

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | 4-chloronicotinic acid | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
product | N,N-diisopropyl-4-chloronicotinamide | C(C)(C)N(C(C1=CN=CC=C1Cl)=O)C(C)C | C12H17ClN2O
